US04154737
A flask was equipped as in Example 1. To a solution of maleic anhydride (1.7 parts) in 3.9 parts acetone was added a solution of 1 part 4-methyl-m-phenylenediamine, 0.28 part triethylamine and 2.5 parts acetone. The heterogeneous reaction mixture was stirred at 40° C. for 30 minutes. Magnesium chloride hexahydrate (0.071 part) and 2.16 part acetic anhydride were added all at once. The reaction temperature was raised to 50° C. and maintained for 2.5 hours. Thirty minutes after the addition the mixture became homogeneous and remained so. The solution was cooled, and 16 parts water was added; the precipitated product was filtered by vacuum filtration, washed with water, and dried in a vacuum oven at 60° C. for 24 hours. N,N'-(4-Methyl-m-phenylene)dimaleimide, m.p. 168°-172° C., was obtained in 85% yield.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 4-methyl-m-phenylenediamine | CC1=C(C=C(C=C1)N)N | C7H10N2
reactant | Magnesium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N'-(4-Methyl-m-phenylene)dimaleimide | 85% yield | CC1=C(C=C(C=C1)N1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C15H10N2O4
